US08293897B2
Step 8) N-(4-(7-(((5R)-4-oxaspiro[2.4]heptane-5-yl)methoxyl)quinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a mixture of N-(4-(7-hydroxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (300 mg, 0.62 mmol) and cesium carbonate (1.0 g, 3.1 mmol, Aladdin) in N,N-dimethylacetamide (1 mL) was added ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate (187.5 mg, 0.91 mmol) in 3 mL of N,N-dimethylacetamide. After stirring at 40° C. for 3 days, the reaction mixture was concentrated in vacuo and was chromatographed with a silica gel column (1:6 (v/v) n-hexane/EtOAc) to afford the title compound as a colorless solid (220 mg, 60%).

reactant | N-(4-(7-hydroxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.62 mmol, 300 mg | OC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C27H21FN4O4
reactant | cesium carbonate | 3.1 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate | 0.91 mmol, 187.5 mg | CS(=O)(=O)OC[C@@H]1OC2(CC2)CC1 | C8H14O4S
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-(4-(7-(((5R)-4-oxaspiro[2.4]heptane-5-yl)methoxyl)quinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 220 mg, 60% | C1CC12O[C@H](CC2)COC2=CC=C1C(=CC=NC1=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O)F | C34H31FN4O5
